2113-05-12 07:50:00 Physician Resident Progress Note
Chief Complaint: PEA arrest
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-5-11**] 02:02 PM
 MULTI LUMEN - START [**2113-5-11**] 04:00 PM
 ULTRASOUND - At [**2113-5-11**] 06:13 PM
 TRANSTHORACIC ECHO - At [**2113-5-11**] 08:05 PM
 BLOOD CULTURED - At [**2113-5-11**] 10:03 PM
 SPUTUM CULTURE - At [**2113-5-11**] 10:03 PM
 ARTERIAL LINE - START [**2113-5-12**] 12:31 AM
 BLOOD CULTURED - At [**2113-5-12**] 02:23 AM
   from A line
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2113-5-11**] 02:51 PM
   Famotidine (Pepcid) - [**2113-5-11**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-12**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 41 (40 - 85) bpm
   BP: 127/51(71) {119/51(-6) - 151/58(82)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
    CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  3,353 mL
                                                                  1,562 mL
   PO:
   TF:
   IVF:
                                                                  3,303 mL
                                                                  1,562 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    105 mL
   Urine:
                                                                    170 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,183 mL
                                                                  1,457 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.39/39/90.[**Numeric Identifier 128**]/23/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), bradycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   118 K/uL
   9.2 g/dL
   207 mg/dL
   3.7 mg/dL
   23 mEq/L
   4.6 mEq/L
   57 mg/dL
   107 mEq/L
   138 mEq/L
   27.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2113-5-11**]  02:40 PM
                             [**2113-5-11**]  05:34 PM
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
   WBC
   8.9
   9.9
   7.2
   Hct
   31.7
   30.0
   27.8
   Plt
   167
   130
   118
   Cr
   3.7
   3.6
   3.7
   TropT
   0.06
   0.07
   TCO2
   23
   25
   24
   24
   Glucose
   192
   196
   207
   Other labs: PT / PTT / INR:14.4/29.7/1.3, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Microbiology: sputum
   2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   Assessment and Plan
   77 y/o male with diabetes, HTN, CAD, CKD, met sq cell ca and melanoma
   admitted with hypoxia in setting new L pleural effusion, and transient
   hypoglycemia, transferred to MICU after PEA arrest now unresponsive
   with myoclonic jerking movements concerning for anoxic brain injury.
   # PEA arrest
   Uncertain etiology, possibilities include aspiration, PE, electrolyte
   abnormality, hypoglycemia. Leading candidate is PE given bedside TTE
   showing RV hypokinesis with strain pattern, no evidence tamponade.
   Lower extremity u/s shows no evidence for PE. Given we are unable to
   obtain CTA given renal failure a decision needs to be made regarding
   empirically treating with heparin. Held off overnight given bleeding
   concern given potential metastatic brain lesion, hematuria, and blood
   per NGT. Patient had negative CT head for bleeding.
   - would favor empirically treating for PE given negative head CT and
   resolution of hematuria, and with TTE showing evidence of right heart
   strain and dilation, prior to this will f/u final read of TTE and
   discuss goals of care with family.
   .
   # Myoclonic jerking
   Suspect this is likely related to anoxic brain injury s/p PEA arrest,
   less likely may be related to metastatic brain lesions.
   - EEG to be performed this morning
   - neurology consultation to assess long term prognosis to aid in family
   discussion regarding goals of care
   - continue with Versed gtt to suppress myoclonic activity
   - discuss with neurology loading with AED and MRI brain
   .
   # Respiratory failure
   Suspect component of aspiration alongside large left pleural effusion.
   PIP and plateau pressures WNL.
   - continue with current ventilator settings
   - would favor tapping effusion if oxygenation becomes an issue or
   patient stabilizes, for diagnostic purposes
   .
   # Bradycardia
   pt. with baseline HR in 50s, on BB as home regimen
   - f/u ECG shows atrial fibrillation and bradycardia
   - hold BB
   - atropine at bedside
   - ruled out for ACS
   .
   # CKD
   - b/l Cr 3.1 [**12-3**]
   - patient oliguric
   - check urine electrolytes
   - check renal u/s if oliguria persists
   .
   # HTN
   - hold all BP meds
   .
   # DM
   - sliding scale
   - QID fingersticks
   .
   # CAD
   - repeat TTE done
   - hold ASA
   - hold carvedilol
   .
   # FEN- NPO
   .
   # ICU
   - chlorhexidine
   - elevate HOB
   - [**Month (only) 60**] place on IV heparin, if not place on SQ heparin
   - pneumoboots
   - H2 blocker
   - bowel regimen
   .
   # Full Code
   .
   # Dispo- ICU, family meeting to discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2113-05-12 09:51:00 Physician Attending Progress Note
Chief Complaint: s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest--> unresponsive, with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-5-11**] 02:02 PM
 MULTI LUMEN - START [**2113-5-11**] 04:00 PM
 ULTRASOUND - At [**2113-5-11**] 06:13 PM
 TRANSTHORACIC ECHO - At [**2113-5-11**] 08:05 PM
 BLOOD CULTURED - At [**2113-5-11**] 10:03 PM
 SPUTUM CULTURE - At [**2113-5-11**] 10:03 PM
 ARTERIAL LINE - START [**2113-5-12**] 12:31 AM
 BLOOD CULTURED - At [**2113-5-12**] 02:23 AM
   from A line
   LENI's neg for DVT
   TTE overnight
   Head CT--negative for new bleed, infarct, no change in cerebellar
   hypodensity
   Propofol
fent/versed
   optimized vent settings to correct for acidosis
   History obtained from Medical records, ho
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2113-5-11**] 02:51 PM
   Famotidine (Pepcid) - [**2113-5-11**] 08:05 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-12**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 46 (40 - 85) bpm
   BP: 151/62(88) {119/51(-6) - 151/62(88)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
   CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  3,353 mL
                                                                  1,717 mL
   PO:
   TF:
   IVF:
                                                                  3,303 mL
                                                                  1,717 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    105 mL
   Urine:
                                                                    170 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,183 mL
                                                                  1,612 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/39/90.[**Numeric Identifier 128**]/23/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress, myclonic jerking
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), brady
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   118 K/uL
   207 mg/dL
   3.7 mg/dL (3.4)
   23 mEq/L
   4.6 mEq/L
   57 mg/dL
   107 mEq/L
   138 mEq/L
   27.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2113-5-11**]  02:40 PM
                             [**2113-5-11**]  05:34 PM
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
   WBC
   8.9
   9.9
   7.2
   Hct
   31.7
   30.0
   27.8
   Plt
   167
   130
   118
   Cr
   3.7
   3.6
   3.7
   TropT
   0.06
   0.07
   TCO2
   23
   25
   24
   24
   Glucose
   192
   196
   207
   Other labs: PT / PTT / INR:14.4/29.7/1.3, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Imaging: cxr--infiltrate R mid zone, et high, r ij ok, persistent L
   collapse, effusion
   Echo:  Dilated right ventricle with moderate systolic dysfunction. Mild
   regional left ventricular systolic dysfunction, c/w CAD. Mild pulmonary
   hypertension.
   Microbiology: pan cx'd
   2+ gpc from sputum,
   blood, urine, pending
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   Main Issues include:
   #PEA arrest
   Unclear etiology of arrest
   -- (? new) afib/bradycardic rhthym since admit, ? new cardiac event
   (r/u by enzymes)
   --Discussed extensively with family risk of empiric anticoagulation for
   possible PE, given possible brain met (per head CT, though in further
   d/w onc would not preclude anticog) ongoing hematuria and bleeding now
   coffee grounds from OG
   But given neg leni
s no hypotension and echo findings less concerned
   for PE
   --? aspiration vs mucus plugging
   Neuro status remains of primer concern given unresponsiveness and
   myoclonic jerking
   # unresponsiveness
   mycolonic movements--concerned for significant anoxic brain injury
   no evidence of new  brain lesion/infarct by head ct
   further neuro assessment , eeg
   discussed concerns w/ family and poor prognosis
   #resp failure
   # asp
   # L effusion
   Continue acv support, ph normalized with increased MV
   Defer tapping effusion pending further neuro assessment
   Cx
s pending for inf w/u though remains af with normal wbc
   # bradycardia
   brady and in atrial fibrillation upon admission (?/but appears new)
   bps stable, tte with evidence of underlying cad, ruled out for mi by
   serial enzymes
   # acute on ckd
   likely atn from arrest/hypotension/poor perfusion
   Monitorr cr, u/o,
   Bolus ivf
   Urine lytes
    # anemia
appears dilutional in setting of fluid resus
   Monitor hcts
      # hematuria
   new since arrival to icu--? foley trauma, flush foley
   t and cross
   serial h/h
      # bleeding from OG/now with coffee grounds
   ? related to intubation trauma
   serial h/h, PPI
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2113-05-13 08:07:00 Physician Resident Progress Note
Chief Complaint: 77 yo M with MMP including DM, melanoma, squamous cell
   CA, CKD who was admitted w/ dizziness, hypoxia, new L pleural effusion,
   and transient hypoglycemia, transferred to MICU after PEA arrest now
   --unresponsive with myoclonic jerking movements concerning for anoxic
   brain injury, resp failure
   24 Hour Events:
 EEG - At [**2113-5-12**] 04:00 PM:  Findings are consistent with a severe
   global encephalopathy suggesting dysfunction of bilateral subcortical
   or deep midline structures.
 MAGNETIC RESONANCE IMAGING - At [**2113-5-12**] 07:13 PM: wet read showing
   global right cerebral and left cerebellar infarction c/w hypotension
   -Family agreed to DNR for now
   -Neuro recs: change to depakote for suppression of myoclonus, and
   reassess in 72hrs for recovery of function
   - UOP picked up somewhat overnight, but PM lytes with worsening
   Creatinine.
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-13**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 64 (46 - 68) bpm
   BP: 128/55(80) {127/55(79) - 186/89(118)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
    CVP: 9 (7 - 61)mmHg
   Total In:
                                                                  2,925 mL
                                                                     55 mL
   PO:
   TF:
   IVF:
                                                                  2,925 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    275 mL
   Urine:
                                                                    660 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,265 mL
                                                                   -220 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 210
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/40/86/22/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   9.5 g/dL
   139 mg/dL
   4.3 mg/dL
   22 mEq/L
   4.7 mEq/L
   60 mg/dL
   110 mEq/L
   140 mEq/L
   29.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2113-5-11**]  02:40 PM
                             [**2113-5-11**]  05:34 PM
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
   WBC
   8.9
   9.9
   7.2
   8.4
   8.3
   Hct
   31.7
   30.0
   27.8
   30.4
   29.0
   Plt
   167
   130
   118
   132
   132
   Cr
   3.7
   3.6
   3.7
   4.0
   4.3
   TropT
   0.06
   0.07
   TCO2
   23
   25
   24
   24
   25
   Glucose
   192
   196
   207
   137
   139
   Other labs: PT / PTT / INR:14.4/29.7/1.3, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Imaging: MRI brain:
   marked acute infarct involving the majority of the rt cerebral
   hemisphere, lt cerebellum and portion of the rt cerebellum with mild
   edema but no significant midline shift. scattered t2 hyperintensities
   likley related to old chronic small vessel disease/infarcts. No post
   contrast imaging done to exclude infarct. High grade distal rt vert
   stenosis around region of PICA.
   Constellation of findings likley relate to global hypoxia/hypotension
   with
   perhaps more proximal rt ica disease resulting in the unilaterality vs
   embolic
   etiology from arrest.
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   #PEA arrest: possibly caused by aspiration event vs. mucous plugging.
   Echo and lenis not concerning for PE, and ruled out for MI with
   enzymes.  Now with EEG findings of global encephalopathy, and MRI
   findings c/w global ischemia.
   -discuss MRI and EEG findings with family to establish goals of care
   # Myoclonic jerking: EEG and MRI as above.  Concern for global
   encephalopathy.  Neuro following and has changed his regimen to
   valproic acid for suppression
   -Family meeting as above
   -re-evaluate in 72 hrs to assess recovery of function
   -Neuro recs
   # Respiratory failure: in the setting of aspiration event during PEA
   arrest and new Left pleural effusion.  Most recent ABG 7.38/40/86 on AC
   550x18 with a PEEP of 5 and FiO2 of 60%.  Sputum cultures showing 2+
   GPCs in pairs and clusters
   -no changes to current vent settings
   -Will await thoracentesis until goals of care are discussed
   #. Rhythm: In slow atrial fibrillation, with rates in the 40-70 range.
   MRI is without signs of cerebral edema.  R/O for MI so unlikely RV
   infarct.
   -Continue to monitor
   #. ARF: Likely ATN in the setting of hypotension.  With baseline CKD.
   Unclear baseline.  Currently cr is rising in the setting of increased
   UOP.  CVPs and MAPs wnl
   -Urine lytes
   -Monitor urine output and cr
   # Bleeding: with hematuria and coffee ground emesis, HCT stable
   -active type and cross\
   -IV PPI
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2113-05-13 11:32:00 Physician Attending Progress Note
Chief Complaint: pea arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   24 Hour Events:
 EEG - At [**2113-5-12**] 04:00 PM--c/w severe global encephalopathy, dysfx
   of cortical structures
 MAGNETIC RESONANCE IMAGING - At [**2113-5-12**] 07:13 PM--acute R MCA
   infarct b/l cerebellar infarcts
   depakote added
                              History obtained from ho
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-13**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 66 (46 - 68) bpm
   BP: 146/70(97) {127/55(79) - 186/89(118)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
   CVP: 13 (8 - 61)mmHg
   Total In:
                                                                  2,925 mL
                                                                     55 mL
   PO:
   TF:
   IVF:
                                                                  2,925 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    390 mL
   Urine:
                                                                    660 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,265 mL
                                                                   -335 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 210
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/40/86/22/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: b/b)
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Oriented (to): , Movement: Non -purposeful, Tone: Not
   assessed
   Labs / Radiology
   9.5 g/dL
   132 K/uL
   139 mg/dL
   4.3 mg/dL (3.6->4.0)
   22 mEq/L
   4.7 mEq/L
   60 mg/dL (stable)
   110 mEq/L
   140 mEq/L
   29.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2113-5-11**]  02:40 PM
                             [**2113-5-11**]  05:34 PM
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
   WBC
   8.9
   9.9
   7.2
   8.4
   8.3
   Hct
   31.7
   30.0
   27.8
   30.4
   29.0
   Plt
   167
   130
   118
   132
   132
   Cr
   3.7
   3.6
   3.7
   4.0
   4.3
   TropT
   0.06
   0.07
   TCO2
   23
   25
   24
   24
   25
   Glucose
   192
   196
   207
   137
   139
   Other labs: PT / PTT / INR:14.4/29.7/1.3, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Imaging: cxr--pending
   Microbiology: pending [**5-12**] bl, urine [**5-11**], sputum [**5-11**]
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   Main Issues include:
   #PEA arrest
   Unclear etiology of arrest
   -- (? new) afib/bradycardic rhthym since admit, ? new cardiac event
   (r/u by enzymes)
   --Discussed extensively with family risk of empiric anticoagulation for
   possible PE, given possible brain met (per head CT, though in further
   d/w onc would not preclude anticog) ongoing hematuria and bleeding now
   coffee grounds from OG
   But given neg leni
s no hypotension and echo findings less concerned
   for PE
   --? aspiration vs mucus plugging
   Neuro status remains of primer concern given unresponsiveness and
   myoclonic jerking
   # unresponsiveness
   # mycolonic movements--concerned for anoxic brain injury
   eeg w/severe global dysfx, MRI infarcts of R MCA and b/l cerebellar
   areas
   will d/w with neuro team
   continue to montior neuro exam
   d/c versed to continue to assess neuro exam
   depakote
   #resp failure
   # asp
   # L effusion
   Continue acv support, ph normalized on current settings
   Defer tapping effusion pending further neuro assessment
   Cx
s pending for inf w/u though remains af with normal wbc
   # bradycardia/A-FIB
   brady and in atrial fibrillation upon admission (?/but appears new),
   tte with evidence of underlying cad, ruled out for mi by serial enzymes
   bp
s stable without pressor requiremnts
   # acute on ckd
   likely atn from arrest/hypotension/poor perfusion
   urine output improving, monitor cr/bun
   Bolus ivf
 cvp 8
   Urine lytes
    # bleeding/ anemia
      # hematuria
   new since arrival to icu--? foley trauma, flush foley--resolving
   t and cross
   serial h/h
remain stable
      # bleeding from OG/now with coffee grounds
   ? related to intubation trauma
   resolving
   ICU Care
   Nutrition: npo
   Glycemic Control:  rssi
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT:   boots
 start sq hep
   Stress ulcer: h2b
   VAP:  preventive stategies
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   45

2113-05-14 08:11:00 Physician Resident Progress Note
Chief Complaint: PEA arrest
   24 Hour Events:
   EEG showing global encephalopathy and MRI with diffuse right cerebral
   and cerebellar infarction.  Prognosis very grim per neurology.  I had a
   family meeting yesterday and communicated this to them.  Neurology will
   meet with them on Monday to finalize after re-evaluating 72H later
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-5-13**] 06:12 PM
   Heparin Sodium (Prophylaxis) - [**2113-5-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-14**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 59 (54 - 76) bpm
   BP: 141/69(93) {140/65(92) - 176/83(117)} mmHg
   RR: 18 (18 - 19) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
    CVP: 7 (6 - 16)mmHg
   Total In:
                                                                    851 mL
                                                                    605 mL
   PO:
   TF:
   IVF:
                                                                    836 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    240 mL
   Urine:
                                                                    915 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                    366 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/37/81.[**Numeric Identifier 253**]/21/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 137
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, toes mute
   Labs / Radiology
   120 K/uL
   10.0 g/dL
   134 mg/dL
   4.5 mg/dL
   21 mEq/L
   4.8 mEq/L
   64 mg/dL
   113 mEq/L
   142 mEq/L
   29.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
                             [**2113-5-14**]  12:21 AM
                             [**2113-5-14**]  04:19 AM
   WBC
   9.9
   7.2
   8.4
   8.3
   7.4
   Hct
   30.0
   27.8
   30.4
   29.0
   29.4
   Plt
   130
   118
   132
   132
   120
   Cr
   3.6
   3.7
   4.0
   4.3
   4.5
   TropT
   0.07
   TCO2
   25
   24
   24
   25
   23
   Glucose
   196
   207
   137
   139
   134
   Other labs: PT / PTT / INR:13.5/28.0/1.2, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Imaging: none
   Microbiology: none new, ngtd
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   .
   #PEA arrest: possibly caused by aspiration event vs. mucous plugging.
   Echo and lenis not concerning for PE, and ruled out for MI with
   enzymes.  Now with EEG findings of global encephalopathy, and MRI
   findings c/w global ischemia.
   -discuss MRI and EEG findings with family to establish goals of care
   .
   # Myoclonic jerking: EEG and MRI as above.  Concern for global
   encephalopathy.  Neuro following and has changed his regimen to
   valproic acid for suppression
   -Family meeting as above
   -re-evaluate in 72 hrs to assess recovery of function
   -Neuro recs
   .
   # Respiratory failure: in the setting of aspiration event during PEA
   arrest and new Left pleural effusion.  Most recent ABG 7.38/40/86 on AC
   550x18 with a PEEP of 5 and FiO2 of 60%.  Sputum cultures showing 2+
   GPCs in pairs and clusters
   -no changes to current vent settings
   -Will await thoracentesis until goals of care are discussed
    .
   #. Rhythm: In slow atrial fibrillation, with rates in the 40-70 range.
   MRI is without signs of cerebral edema.  R/O for MI so unlikely RV
   infarct.
   -Continue to monitor
   .
   #. ARF: Likely ATN in the setting of hypotension.  With baseline CKD.
   Unclear baseline.  Currently cr is rising in the setting of increased
   UOP.  CVPs and MAPs wnl
   -Urine lytes
   -Monitor urine output and cr
   .
   # Bleeding: with hematuria and coffee ground emesis, HCT stable
   -active type and cross\
   -IV PPI
    .
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-05-14 13:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure,
   acute on CKD
   24 Hour Events:
   given eeg and mri--> neuro prognosis appears extremely grim.
   family mtg Monday to discuss goals of care
   u/o improving
   History obtained from ho
   Patient unable to provide history: Unresponsive
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-5-13**] 06:12 PM
   Heparin Sodium (Prophylaxis) - [**2113-5-14**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-14**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 65 (54 - 76) bpm
   BP: 136/66(90) {133/65(89) - 176/83(117)} mmHg
   RR: 18 (18 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
   CVP: 11 (6 - 16)mmHg
   Total In:
                                                                    851 mL
                                                                    964 mL
   PO:
   TF:
   IVF:
                                                                    836 mL
                                                                    964 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    710 mL
   Urine:
                                                                    915 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                    254 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 565 (550 - 565) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 47.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/37/81.[**Numeric Identifier 253**]/21/-1
   Ve: 9.6 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   120 K/uL
   134 mg/dL
   4.5 mg/dL (4.3)
   21 mEq/L
   4.8 mEq/L
   64 mg/dL
   113 mEq/L
   142 mEq/L
   29.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-5-11**]  11:24 PM
                             [**2113-5-11**]  11:43 PM
                             [**2113-5-12**]  02:46 AM
                             [**2113-5-12**]  05:04 AM
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
                             [**2113-5-14**]  12:21 AM
                             [**2113-5-14**]  04:19 AM
   WBC
   9.9
   7.2
   8.4
   8.3
   7.4
   Hct
   30.0
   27.8
   30.4
   29.0
   29.4
   Plt
   130
   118
   132
   132
   120
   Cr
   3.6
   3.7
   4.0
   4.3
   4.5
   TropT
   0.07
   TCO2
   25
   24
   24
   25
   23
   Glucose
   196
   207
   137
   139
   134
   Other labs: PT / PTT / INR:13.5/28.0/1.2, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Imaging: cxr--pending
   Microbiology: no growth on micro
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure,
   acute on CKD
   #PEA arrest
   Unclear etiology
   -- (? new) afib/bradycardic rhythm since admit,? new cardiac event, but
   r/o by enzymes
   Given neg leni
s, no hypotension and echo findings less concerned for
   PE
   ? aspiration vs mucus plugging
   Neuro status prognosis for recovery remains of primer concern given
   unresponsiveness and myoclonic jerking
   # unresponsiveness
   # mycolonic movements
   Poor prognosis, eeg and mri confirm signfiicant damage
   montior neuro exam
   cont depakotefamily mtg Monday to discuss goals of care
   ##resp failure
   # asp
   # L effusion
   Continue acv support, ph normalized on current settings, stable
   oxygenation
   Defer tapping effusion pending further neuro assessment
   Cx
s pending for inf w/u though remains af with normal wbc
   # bradycardia/A-FIB
   ? new since admit--hd stable
   # acute on ckd
   likely atn from arrest/hypotension/poor perfusion
   urine output improving
   Bolus ivf
 cvp >8
    ## bleeding/ anemia
      # hematuria--resolved, h/h stable
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-05-15 07:59:00 Physician Resident Progress Note
Chief Complaint: 77M with metastatic squamous cell carcinoma admitted
   to 11R with hypoglycemia, found to have large L-sided pleural effusion,
   awaiting thoracentesis and underwent PEA arrest, warranting transfer to
   ICU.  Head imaging suggestive of acute right MCA infarct  and bilateral
   cerebellar infarcts.  Currently intubated, not requiring pressors.
   Neurology is following and will be doing follow-up studies on Monday.
   Family meeting will also take place on Monday to discuss goals of care.
   24 Hour Events:
   EEG showing global encephalopathy and MRI with diffuse right cerebral
   and cerebellar infarction.  Prognosis very grim per neurology.  I had a
   family meeting yesterday and communicated this to them.  Neurology will
   meet with them on Monday to finalize after re-evaluating 72H later.
   - added back his norvasc 10mg given htn
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-5-14**] 06:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-15**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 80 (65 - 85) bpm
   BP: 159/81(108) {133/65(89) - 175/97(118)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
    CVP: 11 (7 - 16)mmHg
   Total In:
                                                                  1,832 mL
                                                                    595 mL
   PO:
   TF:
   IVF:
                                                                  1,802 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    105 mL
   Urine:
                                                                  1,030 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    802 mL
                                                                    490 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 565) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.35/41/82.[**Numeric Identifier 96**]/20/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, toes mute
   Labs / Radiology
   128 K/uL
   10.9 g/dL
   137 mg/dL
   4.7 mg/dL
   20 mEq/L
   5.3 mEq/L
   69 mg/dL
   111 mEq/L
   141 mEq/L
   32.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
                             [**2113-5-14**]  12:21 AM
                             [**2113-5-14**]  04:19 AM
                             [**2113-5-14**]  02:45 PM
                             [**2113-5-14**]  08:53 PM
                             [**2113-5-15**]  04:54 AM
                             [**2113-5-15**]  05:06 AM
   WBC
   8.4
   8.3
   7.4
   5.8
   7.1
   Hct
   30.4
   29.0
   29.4
   31.0
   32.9
   Plt
   132
   132
   120
   105
   128
   Cr
   4.0
   4.3
   4.5
   4.7
   4.7
   TCO2
   24
   25
   23
   22
   24
   Glucose
   137
   139
   134
   143
   137
   Other labs: PT / PTT / INR:13.2/28.5/1.1, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   77 yo M with DM2, HTN, CKD, met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure
   .
   #PEA arrest: possibly caused by aspiration event vs. mucous plugging.
   Echo and lenis not concerning for PE, and ruled out for MI with
   enzymes.  Now with EEG findings of global encephalopathy, and MRI
   findings c/w global ischemia.
   -discuss MRI and EEG findings with family to establish goals of care
   tomorrow
   .
   # Myoclonic jerking: EEG and MRI as above.  Concern for global
   encephalopathy.  Neuro following and has changed his regimen to
   valproic acid for suppression
   -Family meeting as above tomorrow
   -re-evaluate in 72 hrs to assess recovery of function
   -Neuro recs
   .
   # Respiratory failure: in the setting of aspiration event during PEA
   arrest and new Left pleural effusion. Sputum cultures showing 2+ GPCs
   in pairs and clusters
   -no changes to current vent settings
   -Will await thoracentesis until goals of care are discussed
    .
   #. Rhythm: In slow atrial fibrillation, with rates in the 40-70 range.
   MRI is without signs of cerebral edema.  R/O for MI so unlikely RV
   infarct.
   -Continue to monitor
   .
   #. ARF: Likely ATN in the setting of hypotension.  With baseline CKD.
   Unclear baseline.  Currently cr is rising in the setting of increased
   UOP.  CVPs and MAPs wnl
   -Monitor urine output and cr
   .
   # Bleeding: with hematuria and coffee ground emesis, HCT stable,
   resolving
   -active type and cross
   -IV famotidine
    .
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-05-15 08:45:00 Physician Attending Progress Note
Chief Complaint: s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo M with DM2, HTN, [** 2118**], met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive, resp failure,
   acute on [** 2118**]
   24 Hour Events:
   EEG: severe metabolic encephalopathy, MRI: R MCA CVA, B/L cerebellar
   CVA's
   O/N: HTN noted, norvasc started
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Cephalexin
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   glucose abnorma
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-5-14**] 06:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-5-15**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.7
   HR: 82 (65 - 85) bpm
   BP: 159/82(109) {133/65(89) - 175/97(118)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.6 kg (admission): 94.4 kg
   Height: 75 Inch
   CVP: 11 (9 - 16)mmHg
   Total In:
                                                                  1,832 mL
                                                                    644 mL
   PO:
   TF:
   IVF:
                                                                  1,802 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    305 mL
   Urine:
                                                                  1,030 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    802 mL
                                                                    339 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 565) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/41/82.[**Numeric Identifier 96**]/20/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress, No(t) Thin
   Eyes / Conjunctiva: PERRL, minimally responsive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lungs clear anteriorly
   Abd + BS,soft
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B/L bases, Bronchial: )
   Extremities: Right: Absent, Left: Absent
   Skin:  warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed, not responsive
   Labs / Radiology
   10.9 g/dL
   128 K/uL
   137 mg/dL
   4.7 mg/dL (4.5)
   20 mEq/L
   5.3 mEq/L
   69 mg/dL
   111 mEq/L
   141 mEq/L
   32.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2113-5-12**]  05:25 AM
                             [**2113-5-12**]  05:33 PM
                             [**2113-5-13**]  12:11 AM
                             [**2113-5-13**]  04:30 AM
                             [**2113-5-14**]  12:21 AM
                             [**2113-5-14**]  04:19 AM
                             [**2113-5-14**]  02:45 PM
                             [**2113-5-14**]  08:53 PM
                             [**2113-5-15**]  04:54 AM
                             [**2113-5-15**]  05:06 AM
   WBC
   8.4
   8.3
   7.4
   5.8
   7.1
   Hct
   30.4
   29.0
   29.4
   31.0
   32.9
   Plt
   132
   132
   120
   105
   128
   Cr
   4.0
   4.3
   4.5
   4.7
   4.7
   TCO2
   24
   25
   23
   22
   24
   Glucose
   137
   139
   134
   143
   137
   Other labs: PT / PTT / INR:13.2/28.5/1.1, CK / CKMB /
   Troponin-T:113/8/0.07, ALT / AST:78/75, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:46/14, Differential-Neuts:85.1 %, Lymph:5.0 %,
   Mono:9.5 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Imaging: CXR: B/L pleural effusions, ETT slightly high
   Microbiology: none new
   UCx - 10-100K enterococcus
   Assessment and Plan
   77 yo M with DM2, HTN, [**Year (4 digits) 2118**], met sq cell ca and melanoma admitted w/
   dizziness, hypoxia, new L pleural effusion, and transient hypoglycemia,
   transferred to MICU after PEA arrest now --unresponsive with myoclonic
   jerking movements concerning for anoxic brain injury, resp failure,
   acute on [**Name (NI) 2118**]
   Unclear etiology of PEA arrest.
   - (? new) afib/bradycardic rhythm since admit, r/o for MI by enzymes
   - neg leni
s, no hypotension and echo findings low suspicion for PE
   - ? aspiration vs mucus plugging
   - Neuro status prognosis for recovery remains of primary concern given
   unresponsiveness, myoclonic jerking
   # unresponsiveness
   # mycolonic movements
   Poor neuro prognosis given eeg and mri findings which confirm
   significant damage
   cont depakote
   re-eval of neuro status today (now 72 hrs post arrest), exam slightly
   worse with no corneal reflexes
   family mtg at 2 pm to discuss goals of care
   ## resp failure
   # asp
   # L effusion
   Continue acv support, stable oxygenation and ph
   Defer tapping effusion pending further neuro assessment
   Cx
s pending for inf w/u though remains af with normal wbc
   # bradycardia/A-FIB
   ? new since admit
 remains hd stable
   # acute on [**Name (NI) **]
likely  [**1-28**] atn from arrest/hypotension/poor perfusion
   urine output improving
   Bolus ivf  for goal cvp > 8
    ## bleeding/ anemia
      # hematuria--resolved, h/h stable
   ICU Care
   Nutrition:  would start tfs pending family mtg
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-5-11**] 02:19 PM
   22 Gauge - [**2113-5-11**] 02:22 PM
   Multi Lumen - [**2113-5-11**] 04:00 PM
   Arterial Line - [**2113-5-12**] 12:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   [**5-15**] 2pm
   Family meeting along with neurology team.  Family updated as to
   worsening neuron exam and repeat head ct findings of increased edema
   and impending brain herniation.  Poor prognosis for neuro recovery.
   All questions answered.  Family decision to withdrawal aggressive
   care/life support.
   Additional 20 min spent in family meeting
   Unable to sign note [**5-15**] [**1-28**] metavision down.
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2113-5-16**] 08:11 AM ------